* Copyright (c) 1998-2022 Analog Devices, Inc.  All rights reserved.
*
.subckt MAX40263 1 2 3 4 5 6
C1 Clamp COM {Cfp1}
B1 COM Clamp I=Uplim(Dnlim({Aol2/1Meg}*V(Aol1,COM), {Isink},1m),{Isrc},1m)
G2 0 Vcc_Int N044 0 1
G3 0 Vee_Int N046 0 1
R6 Vcc_Int 0 1 Temp=-273.15
R7 Vee_Int 0 1 Temp=-273.15
R8 N042 Vcc_Int 1Meg Temp=-273.15
R9 N042 Vee_Int 1Meg Temp=-273.15
C2 N042 0 1
C14 Vcc_Int 0 1n
C15 Vee_Int 0 1n
R1 N003 N009 {Rser} Temp=-273.15
R82 N046 4 1µ Temp=-273.15
A1 Inn1 Inp1 COM COM COM COM Aol1 COM OTA G=100u Iout=1m Vhigh=1k Vlow=-1k
R47 N044 3 1µ Temp=-273.15
R45 Vimon COM 1k Temp=-273.15
C34 COM 0 1n
G30 N044 N046 Vimon COM 1
Vimon Zo_out 5 0
F1 COM Vimon Vimon 1m
DGP N036 Clamp DG
DGN Clamp N037 DG
VGN N037 N041 0
VGP N036 N040 0
G18 N010 Inp1 N030 N029 1m
R51 Inp1 N010 1k Temp=-273.15
C32 N027 N028 {C1a_PSRp}
G19 COM N028 VCC_Int COM {G1_PSRp}
R52 N028 COM 1 Temp=-273.15
R55 N027 N028 {R1a_PSRp} Temp=-273.15
R56 N027 COM {R2a_PSRp} Temp=-273.15
C33 N018 N017 {C1a_PSRn}
G20 COM N017 VEE_Int COM {G1_PSRn}
R57 N017 COM 1 Temp=-273.15
R58 N018 N017 {R1a_PSRn} Temp=-273.15
R59 N018 COM {R2a_PSRn} Temp=-273.15
C35 N020 N019 {C1b_PSRn}
R60 N019 COM 1 Temp=-273.15
R61 N020 N019 {R1b_PSRn} Temp=-273.15
R63 N020 COM {R2b_PSRn} Temp=-273.15
G21 COM N021 N020 COM {G2_PSRn}
G23 COM N019 N018 COM 1
R68 N026 N025 {R1b_PSRp} Temp=-273.15
R69 N025 COM {R2b_PSRp} Temp=-273.15
G26 COM N024 N025 COM {G2_PSRp}
C37 N025 N026 {C1b_PSRp}
G27 COM N026 N027 COM 1
R70 N026 COM 1 Temp=-273.15
R76 N004 N007 1k Temp=-273.15
B17 N007 N004 I=1m*{Vos+Drift* (Temp-27)}
G32 N005 N006 N002 COM 1m
R77 N006 N005 1k Temp=-273.15
R79 N005 N004 1k Temp=-273.15
G33 N004 N005 E_n COM 1m
C39 N002 N001 {C1a_CMR}
G34 COM N001 N003 COM {G1_CMR}
R80 N002 N001 {R1a_CMR} Temp=-273.15
R81 N002 COM {R2a_CMR} Temp=-273.15
R83 N001 COM 1 Temp=-273.15
G35 COM IVR N003 COM 1m
G36 COM Inn1 N033 COM 1k
R84 COM IVR 1k Temp=-273.15
R85 COM Inn1 1m Temp=-273.15
C40 Inn1 COM 1.59n
C41 IVR COM 1.59f
R2 N033 N032 {Rser} Temp=-273.15
Cinp COM N003 {Ccm}
Cinn N033 COM {Ccm}
Rinn N033 COM {Rcm} Temp=-273.15
Rinp COM N003 {Rcm} Temp=-273.15
G28 COM N010 N006 COM 1k
R72 COM N010 1m Temp=-273.15
C42 N010 COM 1.59n
C43 Aol1 COM 1.59e-18
G15 COM N040 GRpi COM 1k
G16 COM N041 GRni COM 1k
R11 N040 COM 1m Temp=-273.15
R12 N041 COM 1m Temp=-273.15
R37 GRpi COM 1k Temp=-273.15
R44 GRni COM 1k Temp=-273.15
C6 GRni COM 10p
C7 GRpi COM 10p
S2 3 5 5 3 ESDO
S3 5 4 4 5 ESDO
DOP Vsatp Zo_out DO
DON Zo_out Vsatn DO
G5 COM Vsatp Satp COM 1k
R92 Vsatp COM 1m
G6 COM Vsatn Satn COM 1k
R93 Vsatn COM 1m
C10 Vimon COM 1.59f
S4 3 N007 N007 3 ESDI
S5 3 Inn1 Inn1 3 ESDI
S6 N007 4 4 N007 ESDI
S7 Inn1 4 4 Inn1 ESDI
C9 Zo_out Vsatp 1f
C16 Zo_out Vsatn 1f
C27 Clamp N040 1f
C44 Clamp N041 1f
Cdiff N003 N033 {Cdiff}
C17 Vsatp COM 1n
C23 Vsatn COM 1n
E1 COM 0 N042 0 1
R10 COM 0 1Meg Temp=-273.15
C51 N029 COM 1.59p
C52 N030 COM 1.59p
R16 N009 1 1m Temp=-273.15
R17 N032 2 1m Temp=-273.15
B3 COM CMpi I=1m*(V(3,COM)+{Vcm_max}) Cpar=1n
G17 COM CMp CMpi COM 1k
R53 COM CMp 1m Temp=-273.15
B8 COM CMni I=1m*(V(4,COM)+{Vcm_min}) Cpar=1n
G22 COM CMn CMni COM 1k
R54 COM CMn 1m Temp=-273.15
R62 CMpi COM 1k Temp=-273.15
R88 CMni COM 1k Temp=-273.15
DIP CMp IVR DI
DIN IVR CMn DI
C54 IVR CMn 1f
C48 IVR CMp 1f
G14 COM N007 IVR COM 1k
R14 COM N007 1m Temp=-273.15
C49 N007 COM 1.59n
Rdiff N003 N033 {Rdiff} Temp=-273.15
R43 N024 N023 {R1b_PSRp} Temp=-273.15
R46 N023 COM {R2b_PSRp} Temp=-273.15
G11 COM N030 N023 COM {G2_PSRp}
C28 N023 N024 {C1b_PSRp}
R34 N024 COM 1 Temp=-273.15
R35 N030 COM 1 Temp=-273.15
R89 N021 COM 1 Temp=-273.15
C30 N022 N021 {C1b_PSRn}
R90 N022 N021 {R1b_PSRn} Temp=-273.15
R91 N022 COM {R2b_PSRn} Temp=-273.15
G13 COM N029 N022 COM {G2_PSRn}
R103 N029 COM 1 Temp=-273.15
A6 COM COM COM COM COM COM N038 COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={fAe}/(freq**{Me})
R36 N039 COM 100k Temp=-273.15
A7 COM N039 COM COM COM COM E_n COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={BBe}
R39 E_n COM 100k Temp=-273.15
G9 COM Vs 3 4 1m
R19 Vs COM 1k Temp=-273.15
A11 VminGD COM COM ENgd VmaxGD COM EN COM AND Trise=5n
R20 EN COM 1G Temp=-273.15
R65 VmaxGD COM 1G Temp=-273.15
R66 COM VminGD 1G Temp=-273.15
A12 6 4 COM COM COM COM ENgd COM SCHMITT Vt={ENVt} Vh={ENVh} Trise={ENTon*2} Tfall={ENToff*2}
S8 COM Clamp EN COM ENA
S9 COM Aol1 EN COM ENA
Biq N044 N046 I=IF(V(EN,COM)>0.5, V(Viq,COM),{Iq_off})
BIbp N003 COM I={Ib+Ibd* (Temp-27)}
Bipd 6 COM I=IF(V(EN,COM)>0.5, {Ipd_on},{Ipd_off})
D2 6 3 PD
R22 3 6 1G
A9 Vs COM COM COM COM COM VminGD COM SCHMITT Vt={Vsmin-50m} Vh=10m Trise={VsTon*2} Tfall={VsToff*2}
A10 Vs COM COM COM COM VmaxGD COM COM SCHMITT Vt={Vsmax+50m} Vh=10m Trise={VsTon*2} Tfall={VsToff*2}
B4 COM Iqd I=1m*table(temp, -40, 1.8u, 25, 0, 85, 1.3u, 125, 1.2u)
R40 Iqd COM 1k Noiseless
C8 Iqd COM 1p
BViq1 Viq COM I=({Iqa}+{Iqb}*V(Vs,COM))/(1+{Iqc}*V(Vs,COM)+{Iqd}*Pwr(V(Vs,COM),2)) +V(Iqd,COM)*(temp-25)
R41 Viq COM 1
C12 Viq COM 1n
BIbn N033 COM I={Ib-Ios}+{Ibd}* (temp-27)
B2 COM Satp I=1m*Min(V(Satp1,COM), V(Satp2,COM))
R18 Satp COM 1k
C5 Satp COM 1n
B5 COM Satn I=1m*Max(V(Satn1,COM), V(Satn2,COM))
R21 Satn COM 1k
C11 Satn COM 1n
B6 Vee_Int Satn1 I=1m*Max(Mn1*(-V(Vimon,COM))+OSn1,OSn1)
R27 Satn1 Vee_Int 1k
C19 Satn1 Vee_Int 1n
B7 Satp1 Vcc_Int I=1m*Max(Mp1*(V(Vimon,COM))+OSp1,OSp1)
R28 Satp1 Vcc_Int 1k
C24 Satp1 Vcc_Int 1n
R29 Satn2 Vee_Int 1k
C26 Satn2 Vee_Int 1n
R48 Satp2 Vcc_Int 1k
C29 Satp2 Vcc_Int 1n
B9 Satp2 Vcc_Int I=1m*Max(Mp2*(V(Vimon,COM))+OSp2,OSp1)
B10 Vee_Int Satn2 I=1m*Max(Mn2*(-V(Vimon,COM))+OSn2,OSn1)
C31 N039 N038 150f
I1 COM GRpi 100m
I2 GRni COM 100m
Rx Zo_out N015 {Rx_Zo} Noiseless
Rdummy Zo_out COM {Rdummy_Zo} Noiseless
R3 N015 COM 1 Noiseless
B11 COM N015 I=Uplim(Dnlim({G1_Zo}* V(Zo_in,Zo_out), {Izon}, 25m), {Izop}, 25m)
G8 COM N011 Clamp COM 1m
R23 N011 COM 1k
C18 N011 COM 1.59p
G10 COM N012 N011 COM 1m
C20 N012 COM 159f
G12 COM N013 N012 COM 1m
C21 N013 COM 159f
G25 COM N014 N013 COM 1m
L1 N014 N034 159n
G29 COM Zo_in N014 COM 1m
L2 Zo_in N035 159n
R24 N012 COM 1k Noiseless
R26 N013 COM 1k Noiseless
R30 N034 COM 1k Noiseless
R31 N014 N034 {1/100u} Noiseless
R32 N035 COM 1k Noiseless
R33 Zo_in N035 {1/100u} Noiseless
.param Vos=-13.36u Drift=1u
.param Ib=10f Ios=0 Ibd=1.999p
.param Vcm_min=-0.1 Vcm_max=0.1
.param Vsmin=1.8 Vsmax=5.5
.param Iscp=50m Iscn=-50m
.param Iq_on=750u Iq_off=455n
.param IZop={Rx_Zo*Iscp} IZon={Rx_Zo*Iscn}
.param ENVt=0.9 ENVh=0.4
.param ENTon=9u ENToff=9u
.param Ipd_on=-1u Ipd_off=-1u
.param VsTon=9.7m VsToff=9.7m
.model DI D(Vfwd=1k Vrev=0 Revepsilon=0.1 Noiseless)
.model DG D(Vfwd=10k Vrev=0 Revepsilon=0.5 Ron=1m Noiseless )
.model DO D(Vfwd=1k Vrev=0 Revepsilon=0.1 Ron=1m Noiseless)
.model PD D(Ron=0.5 Epsilon=0.1 Noiseless)
.model ESDI SW(Ron=50 Roff=1T Vt=700m Vh=-350m Vser=0.1 Noiseless)
.model ESDO SW(Ron=50 Roff=1G Vt=0.5 Vh=-0.1 Vser=0.6 Ilimit=4m Lser=1n Noiseless)
.model OL SW(Ron=10m Roff=1G Vt=500m Vh=-100m Noiseless)
.model ENA SW(Ron=1Meg Roff=1u Vt=500m Vh=-100m Noiseless)
.model ENZ SW(Ron=1 Roff=1u Vt=500m Vh=-100m Noiseless)
.param Aol2_dB = {Aol_PB-40+1}
.param Aol2 = {pwr(10, (Aol2_dB)/20)}
.param Cfp1={1 / (2 * pi * fp1 * 1Meg)}
.param Isrc = {Cfp1 * SRp * 1Meg} Isink = {Cfp1 * SRn * 1Meg}
.param gain_PSRn = {pow(10, (-Rej_dc_PSRn/20))}
.param C1a_PSRn = {1 / (2 * pi * R1a_PSRn * fz1_PSRn)}
.param R2a_PSRn = {R1a_PSRn/ ((2 * pi * fp1_PSRn * C1a_PSRn
+* R1a_PSRn) - 1)}
.param actual1_PSRn = {R2a_PSRn / (R1a_PSRn + R2a_PSRn)}
.param G1_PSRn = {gain_PSRn/actual1_PSRn}
.param C1b_PSRn = {1 / (2 * pi * R1b_PSRn * fz2_PSRn)}
.param R2b_PSRn = {R1b_PSRn/ ((2 * pi * fp2_PSRn * C1b_PSRn
+* R1b_PSRn) - 1)}
.param actual2_PSRn = {R2b_PSRn/ (R1b_PSRn + R2b_PSRn)}
.param G2_PSRn = {1/actual2_PSRn}
.param gain_PSRp = {pow(10, (-Rej_dc_PSRp/20))}
.param C1a_PSRp = {1 / (2 * pi * R1a_PSRp * fz1_PSRp)}
.param R2a_PSRp = {R1a_PSRp/ ((2 * pi * fp1_PSRp * C1a_PSRp
+* R1a_PSRp) - 1)}
.param actual1_PSRp = {R2a_PSRp / (R1a_PSRp + R2a_PSRp)}
.param G1_PSRp = {gain_PSRp/actual1_PSRp}
.param C1b_PSRp={1 / (2 * pi * R1b_PSRp * fz2_PSRp)}
.param R2b_PSRp = {R1b_PSRp/ ((2 * pi * fp2_PSRp * C1b_PSRp
+* R1b_PSRp) - 1)}
.param actual2_PSRp = {R2b_PSRp / (R1b_PSRp + R2b_PSRp)}
.param G2_PSRp= {1/actual2_PSRp}
.param gain_CMR = {pow(10, (-Rej_dc_CMR/20))}
.param C1a_CMR = {1 / (2 * pi * R1a_CMR * fz1_CMR)}
.param R2a_CMR = {R1a_CMR/ ((2 * pi * fp1_CMR * C1a_CMR
+* R1a_CMR) - 1)}
.param actual1_CMR = {R2a_CMR / (R1a_CMR + R2a_CMR)}
.param G1_CMR = {gain_CMR/actual1_CMR}
.param Aol_PB=106.4
.param fp1=63
.param SRp=8.02 SRn={-SRp}
.param Rser=1m
.param Ccm=2.5p Rcm=100G
.param Cdiff=0p Rdiff=1T
.param Rej_dc_CMR=98.8
.param R1a_CMR=10Meg
.param fz1_CMR=5k
.param fp1_CMR=400Meg
.param Rej_dc_PSRp=103
.param R1a_PSRp=1Meg
.param fz1_PSRp=170
.param fp1_PSRp=9.5Meg
.param R1b_PSRp=1Meg
.param fz2_PSRp=550k
.param fp2_PSRp=900k
.param Rej_dc_PSRn=103
.param R1a_PSRn=1Meg
.param fz1_PSRn=170
.param fp1_PSRn=9.5Meg
.param R1b_PSRn=1Meg
.param fz2_PSRn=550k
.param fp2_PSRn=900k
.param BBe=8n fCe=16k Me=0.5 fAe={BBe*(fCe**Me)}
.param Iqa=722u Iqb=-122u Iqc=-224m Iqd=9.27m
.param Mp1=5.76 OSp1=3.5m
.param Mp2=7.8 OSp2=-38m
.param Mn1=5.8 OSn1=2.5m
.param Mn2=7.4 OSn2=-32.4m
.param beta_Zo=1.13
.param Rx_Zo = {100 * Zo_max}
.param Rdummy_Zo = {10 * Zo_max}
.param G1_Zo={Rx_Zo/(Zo_dc*beta_Zo)}
.param Zo_dc=200
.param Zo_max={Zo_dc}
.ends MAX40263
